S1 passive battery closure; no converter switching model
Vpack source 0 PWL(0 0 0.5u 5.4)
Vsense source a 0
Rseries a b 1.79408696
Lharness b vin 1e-06
Resr vin cap 0.01
Cin cap 0 1.5e-05
Rleak vin 0 100Meg
.tran 5n 400u 0 100n
.meas tran vin_peak MAX v(vin)
.meas tran i_peak MAX i(Vsense)
.meas tran input_i2t INTEG par('i(Vsense)*i(Vsense)') FROM=0 TO=400u
.end
